US07786307B2
d) tert-Butyl (1(S)-formyl-3(S)-{[2-(3-methoxypropoxy)benzoylamino]methyl}-4-methylpentyl)carbamate
The solution of 2.65 g of tert-butyl (1(S)-hydroxymethyl-3(S)-{[2-(3-methoxypropoxy)-benzoylamino]methyl}-4-methylpentyl)carbamate, 2.44 ml of triethylamine in 20 ml of dichloromethane is cooled to 0° C. The solution of 3.07 g of sulphur trioxide-pyridine complex in 12 ml of dimethyl sulphoxide is added dropwise over 1 hour and then the mixture is stirred for another 1 hour. The reaction mixture is admixed with 20 ml of ice-water and extracted with dichloromethane (3×). The combined organic phases are washed with 10% aqueous sodium hydrogensulphate solution, water, 1M sodium hydrogencarbonate solution and brine, dried over sodium sulphate and concentrated by evaporation. The title compound is obtained as a slightly yellowish foam. Rf=0.33 (3:1 EtOAc-heptane); Rt=4.65 (gradient I).

reactant | tert-butyl (1(S)-hydroxymethyl-3(S)-{[2-(3-methoxypropoxy)-benzoylamino]methyl}-4-methylpentyl)carbamate | 2.65 g | OC[C@H](C[C@@H](C(C)C)CNC(C1=C(C=CC=C1)OCCCOC)=O)NC(OC(C)(C)C)=O | C24H40N2O6
reactant | triethylamine | 2.44 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dimethyl sulphoxide | 12 ml | CS(=O)C | C2H6OS
product | tert-Butyl (1(S)-formyl-3(S)-{[2-(3-methoxypropoxy)benzoylamino]methyl}-4-methylpentyl)carbamate | C(=O)[C@H](C[C@@H](C(C)C)CNC(C1=C(C=CC=C1)OCCCOC)=O)NC(OC(C)(C)C)=O | C24H38N2O6
